US06686356B2
Step 4: Preparation of diethyl 2-{[4-methyl-6-(morpholin-4-ylmethyl)-3-oxo-3,4-dihydroquinoxalin-1(2H)-yl]methylene}malonate
A solution of 2-chloro-N-[2-[(chloroacetyl)amino]-5-(morpholin-4-ylmethyl)phenyl]-N-methylacetamide chloroacetic acid salt (792 g) in THF (2000 ml) and water (1600 ml) is added aqueous sodium hydroxide (532 g, 50 wt %) while maintaining 13-17° C. via occasional cooling with a dry ice/acetone bath. After 20 min, a solution of ammonium chloride (89 g) in water (400 ml) is added followed by toluene (2000 ml). The phases are separated and the organic is washed with water (100 ml). The combined aqueous are back extracted with a mixture of THF (1000 ml) and toluene (1300 ml). The THF/toluene back extract is washed with water (100 ml). The combined aqueous is back extracted with a mixture of THF (1000 ml) and toluene (1300 ml). The THF/ toluene back extract is washed with water (100 ml). The combined aqueous is back extracted with a mixture of THF (1000 ml) and toluene (1300 ml). The combined organics are concentrated in vacuo. Isopar-H (5.35 liter) and diethyl ethoxymethylenemalonate (394 g) are added and the mixture is warmed to 123° C. with distillation of a small amount of solvent and stirred at 122 to 125° C. for 3 h. The resultant solution is slowly cooled to −2° C. over /2 h to give a slurry. The precipitate is collected by filtration, washed with branched octanes (2 liter) and dried in a nitrogen stream to give a light yellow solid (573 g). Physical characteristics: 1H NMR (400 MHz, CDCl3) δ1.30, 1.35, 2.45, 3.41, 3.50, 3.72, 4.15, 4.23, 4.30, 6.99, 7.07, 7.75; 13C NMR (100 MHz, CDCl3) δ14.14, 14.26, 29.01, 52.09, 53.57, 60.70, 61.26,62.77,66.89, 102.75, 115.50, 119.42, 124.45, 129.12, 131.42, 136.17, 146.18, 164.25, 165.79, 166.24; Anal. Found: C, 61.16; H, 6.91; N, 9.72.

reactant | 2-chloro-N-[2-[(chloroacetyl)amino]-5-(morpholin-4-ylmethyl)phenyl]-N-methylacetamide chloroacetic acid salt | 792 g | ClCC(=O)O.ClCC(=O)N(C)C1=C(C=CC(=C1)CN1CCOCC1)NC(CCl)=O
reactant | sodium hydroxide | 532 g | [OH-].[Na+]
reactant | ammonium chloride | 89 g | [Cl-].[NH4+]
reactant | toluene | 2000 ml | C1(=CC=CC=C1)C | C7H8
reactant | THF | 2000 ml | C1CCOC1 | C4H8O
solvent | water | 1600 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | diethyl 2-{[4-methyl-6-(morpholin-4-ylmethyl)-3-oxo-3,4-dihydroquinoxalin-1(2H)-yl]methylene}malonate | 573 g | CN1C(CN(C2=CC=C(C=C12)CN1CCOCC1)C=C(C(=O)OCC)C(=O)OCC)=O | C22H29N3O6
